US05686463
a) Methyl-5-Methoxymethylenequinuclidine-2-carboxylate
n-Butyllithium (13,67 ml of a 1.5M solution; 20.5 mmol) was added at 20° to a suspension of methoxymethyltriphenyl phosphonium chloride (7 g, 20.5 mmol) stirred in ether (150 ml) under nitrogen. After 2 h, the mixture was cooled to -35° and a solution of methyl 5-oxoquinuclidine-2-carboxylate (3 g, 16.4 mmol; prepared as described in Zhur. Obshchei. Khim., (1960), 30, 519;see Chem. Abs. (1960), 54: 24723) in ether (20 ml) added. The mixture was allowed to warm to 20° over 1 h and then stirred at this temperature for 16 h. After removing the precipitated triphenylphosphine oxide by filtration, the ether was evaporated off and the resulting oil subjected to chromatography on silica in 3% methanol in dichloromethane to afford the title compound (2.05 g) as a mixture of isomers: m/e 211 (M+); δ(360 MHz, CDCl3) 1.2-2.0 (4H, m, 2×CH2); 2.18-2.34 (1H, m, 4-CH); 2.5-3.4 (5H, m, 2×NCH2 and NCH); 3.50-3.56 (3H, m, OCH3); 3.78-3.82 (3H, m, CO2CH3) and 5.73-5.83 (1H, m, CH).

reactant | n-Butyllithium | C(CCC)[Li]
reactant | methoxymethyltriphenyl phosphonium chloride | 20.5 mmol, 7 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | methyl 5-oxoquinuclidine-2-carboxylate | 16.4 mmol, 3 g | O=C1C2CC(N(C1)CC2)C(=O)OC | C9H13NO3
solvent | ether | 150 ml | CCOCC | C4H10O
solvent | ether | 20 ml | CCOCC | C4H10O
product | Methyl-5-Methoxymethylenequinuclidine-2-carboxylate | 2.05 g | COC(=O)C1N2CC(C(C1)CC2)=COC | C11H17NO3
